US04539319
4-Benzyloxy-5,6,7,8-tetrahydro-4-naphthonitrile (5)
1-Benzyloxy-4-bromo-5,6,7,8-tetrahydronaphthalene (4.5 g, 14.2 mM), cuprous cyanide (1.71 g, 8.67 mM) pyridine (1 ml) and hexamethylphosphoramide (0.25 ml) was stirred at 170° C. for 16 hours. The resultant viscous mixture was dissolved in methylene chloride and washed with ammonium hydroxide solution, saturated brine solution, dried (sodium sulphate) and evaporated to give an oil (4.6 g). This oil was chromatographed on alumina (eluted with methylene chloride:petroleum ether, 1:1) to give the nitrile (5) as a solid (2.4 g) m pt 74°-75° C.

reactant | 1-Benzyloxy-4-bromo-5,6,7,8-tetrahydronaphthalene | 14.2 mM, 4.5 g | C(C1=CC=CC=C1)OC1=CC=C(C=2CCCCC12)Br | C17H17BrO
reactant | hexamethylphosphoramide | 0.25 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-Benzyloxy-5,6,7,8-tetrahydro-4-naphthonitrile | 4.6 g | C(C1=CC=CC=C1)OC1(CC=CC=2CCCCC12)C#N | C18H19NO
